US05350762
1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methycyclopent[b]indole-2-methanol
To a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methycyclopent[b]indole-2-carboxylic acid ethyl ester (2.0 g, 0.006 mole) in 50 ml of dry tetrahydrofuran, was added lithium aluminum hydride (1M solution in tetrahydrofuran, 10 ml, 0.01 mole). After stirring at 70° C. for one hour, the mixture was cooled, quenched with 2 ml of saturated ammonium chloride solution, filtered, and the filtrate concentrated to a brown oil, ~2 g. This oil was eluted on a silica gel column with 10% methanol/dichloromethane via HPLC. The desired fractions were combined and concentrated to a tan oil, which solidified on standing to give 1.3 g of the product, m.p. 83°-85° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-4-methycyclopent[b]indole-2-carboxylic acid ethyl ester | 0.006 mole, 2.0 g | C(C)OC(=O)C1CC2=C(N(C=3C=CC(=CC23)OCC2=CC=CC=C2)C)C1 | C22H23NO3
reactant | lithium aluminum hydride | 0.01 mole, 1M, 10 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-Tetrahydro-7-phenylmethoxy-4-methycyclopent[b]indole-2-methanol | 1.3 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)CO | C20H21NO2
